US09238647B2
Step C: tert-butyl 2-amino-6-(4-methylphenyl)isonicotinate
To a solution of tert-butyl 2-(benzylamino)-6-(4-methylphenyl)isonicotinate (0.37 g, 0.98 mmol) in ethanol (4.67 mL) were added palladium dihydroxide (3.42 mg, 0.024 mmol) and trifluoroacetic acid (0.08 mL, 1.08 mmol). The mixture was purged with hydrogen and stirred under hydrogen (1 atm) at 60° C. After 30 min, the mixture was cooled to ambient temperature and filtered with Celite. The filtered cake was washed with methanol and the filtrate was concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (145 mg): LC-MS [M+1]=285.2.

reactant | tert-butyl 2-(benzylamino)-6-(4-methylphenyl)isonicotinate | 0.98 mmol, 0.37 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)OC(C)(C)C)C=C(N1)C1=CC=C(C=C1)C | C24H26N2O2
reactant | trifluoroacetic acid | 1.08 mmol, 0.08 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 4.67 mL | C(C)O | C2H6O
catalyst | palladium dihydroxide | 0.024 mmol, 3.42 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl 2-amino-6-(4-methylphenyl)isonicotinate | 145 mg | NC=1C=C(C(=O)OC(C)(C)C)C=C(N1)C1=CC=C(C=C1)C | C17H20N2O2
